US08372864B2
330 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 10 cm3 of ethyl ether at a temperature close to 20° C. 1 cm3 of a 2M solution of hydrochloric acid in ethyl ether is added, while stirring under argon, at a temperature of 20° C. The reaction mixture precipitates. The solid is filtered, washed with 5 cm3 of ethyl ether and dried under vacuum at a temperature of 35° C. for 3 h. 310 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 330 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)N(S(=O)(=O)C)C)=O)C(CCC)CCC)C=C(C1)F | C39H47F5N4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 10 cm3 | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 310 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)N(S(=O)(=O)C)C)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C39H47F5N4O5S.ClH/c1-5-8-29(9-6-2)48-15-12-31-32(21-30(22-33(31)37(48)51)47(3)54(4,52)53)36(50)46-34(18-24-16-27(40)20-28(41)17-24)35(49)23-45-38(13-14-38)25-10-7-11-26(19-25)39(42,43)44;/h7,10-11,16-17,19-22,29,34-35,45,49H,5-6,8-9,12-15,18,23H2,1-4H3,(H,46,50);1H/t34-,35+;/m0./s1
